US08497264B2
To a solution of ethyl 2-(7-bromo-4-fluoro-9-hydroxy-2-methoxy-9H-xanthen-9-yl)acetate (1.0 g, 2.432 mmol) in toluene (25 ml) was added azidotrimethylsilane (0.560 g, 4.86 mmol). The solution was cooled to 0° C. and (diethyloxonio)trifluoroborate (0.308 ml, 2.432 mmol) was added drop wise. The mixture was stirred overnight at RT. The solution was quenched with MeOH (10 ml) and diluted with EtOAc. The organic phase was separated, washed with saturated aqueous sodium bicarbonate solution and brine, and then concentrated to afford crude ethyl 2-(9-azido-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)acetate (1 g, 2.292 mmol, 94% yield).

reactant | ethyl 2-(7-bromo-4-fluoro-9-hydroxy-2-methoxy-9H-xanthen-9-yl)acetate | 2.432 mmol, 1.0 g | BrC1=CC=C2OC=3C(=CC(=CC3C(C2=C1)(O)CC(=O)OCC)OC)F | C18H16BrFO5
reactant | azidotrimethylsilane | 4.86 mmol, 0.560 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | (diethyloxonio)trifluoroborate | 2.432 mmol, 0.308 ml | C(C)[O+](CC)[B-](F)(F)F | C4H10BF3O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(9-azido-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)acetate | 2.292 mmol, 1 g, 94% yield | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC=2C(=CC(=CC12)OC)F)Br)CC(=O)OCC | C18H15BrFN3O4
